US04677115
5-Hydroxy-4,5,6,7-tetrahydrobenzo[b]thiophene-2-sulfonamide
To a suspension of 5-oxo-4,5,6,7-tetrahydrobenzo[b]thiophene-2-sulfonamide (1.0 g, 0.0043 mole) in ethanol (30 ml) was added sodium borohydride (160 mg, 0.004 mole). The suspended solid dissolved within 10 minutes in a slightly exothermic reaction. Stirring was continued overnight at room temperature. After dilution with water (15 ml), the ethanol was stripped in vacuo. The residual aqueous solution was cooled in an ice bath and acidified with 6N HCl. The precipitate was collected, washed with water, and dried to yield 0.7 g (70%) of product as an off-white crystalline solid, mp 176°-179° C.

reactant | 5-oxo-4,5,6,7-tetrahydrobenzo[b]thiophene-2-sulfonamide | 0.0043 mole, 1.0 g | O=C1CC2=C(SC(=C2)S(=O)(=O)N)CC1 | C8H9NO3S2
reactant | sodium borohydride | 0.004 mole, 160 mg | [BH4-].[Na+]
reactant | water | 15 ml | O | H2O
reactant | HCl | 6N | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 5-Hydroxy-4,5,6,7-tetrahydrobenzo[b]thiophene-2-sulfonamide | 0.7 g, 70% | OC1CC2=C(SC(=C2)S(=O)(=O)N)CC1 | C8H11NO3S2
